US07589123B2
By a similar procedure as described in Example 1 using 1-(4-iodophenyl)-butane-1,3-dione (prepared by reaction of 4-iodoacetophenone with ethyl acetate in the presence of sodium hydride) in place of 5,5-dimethylhexane-2,4-dione, (E)-5-(4-hydroxy-3-methoxyphenyl)-1-(4-iodophenyl)-pent-4-ene-1,3-dione (0.40 g, 0.95 mmol, 31%) was obtained as a yellow solid: mp 139-141° C.; 1H NMR (400 MHz; CDCl3) δ 3.95 (3H, s, OCH3), 5.87 (1H, s, OH), 6.27 (1H, s, H-2), 6.42 (1H, d, J=16.0 Hz, H-4), 6.87 (1H, d, J=8.4 Hz, H-5′), 6.99 (1H, s, H-2′), 7.06 (1H, d, J=8.4 Hz, H-6′), 7.54-7.60 (3H, m, H-5, H-3″, H-5″), 7.41-7.62 (2H, m, H-2″, H-6″), 16.18 (1H, s, OH) ppm; 13C NMR (100 MHz; CDCl3) δ 187.5, 180.8, 148.1, 146.9, 140.9, 138.0, 135.5, 128.9, 127.6, 123.2, 120.9, 115.1, 109.6, 100.0, 97.1, 56.0 ppm.

reactant | 1-(4-iodophenyl)-butane-1,3-dione | IC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9IO2
reactant | 4-iodoacetophenone | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | sodium hydride | [H-].[Na+]
reactant | 5,5-dimethylhexane-2,4-dione | CC(C(CC(C)=O)=O)(C)C | C8H14O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-5-(4-hydroxy-3-methoxyphenyl)-1-(4-iodophenyl)-pent-4-ene-1,3-dione | 0.95 mmol, 0.40 g, 31% | OC1=C(C=C(C=C1)/C=C/C(CC(=O)C1=CC=C(C=C1)I)=O)OC | C18H15IO4
